data/mechanisms/records/IMS8-EQ8.72.json
{"mechanism_id": "IMS8-EQ8.72", "species": [{"species_id": "butyl_acetate_molecular_ion", "mapped_smiles": "[CH3:3][C:1](=[O+:2])[O:4][CH2:5][CH2:6][CH2:7][CH3:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_acid_ion", "mapped_smiles": "[CH3:3][C:1]([OH:4])=[OH+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "alkenyl_radical_neutral", "mapped_smiles": "[CH2:5]=[CH:6][CH:7][CH3:8]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["butyl_acetate_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["protonated_acid_ion", "alkenyl_radical_neutral"]}], "steps": [{"step_id": "step_double_hydrogen_rearrangement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_r2H_8_72", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_double_hydrogen_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 191, "equation": "8.72", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements (double-hydrogen rearrangement, r 2H)"}, "confidence": 0.85, "curator_note": "Equation 8.72, whose reaction arrow is labelled 'r 2H'. The drawn precursor is R-CH(H)-CH(H)-CH2-Y'-C(R')=Y(+.): the n-ionized carbonyl heteroatom Y carries the printed '+.', the two hydrogens that migrate are written out as explicit H letters on the two chain carbons, and the bond that is cleaved -- the alkyl C-Y' bond -- is marked with a WAVY line. Book draws 0 curved arc(s) / fishhooks; the only graphical mechanism markers are the two explicit H letters, the wavy cleavage mark and the 'r 2H' label, so every encoded move is curator-supplied. Products as printed: the odd-electron neutral .CnH2n-1 and the EVEN-electron ion HY'-CR'=YH+, which the page draws together with its resonance partner HY'=CR'-YH+ joined by a double-headed arrow (one localized form, HO-C(CH3)=OH+, is encoded consistently; the partner is not). ENCODING NOTE (honest divergence): both migrating hydrogens are invisible to the bond bookkeeping because RDKit folds a mapped explicit H into implicit valence, so each H transfer is written as the single electron relocation it produces at the heavy-atom level. Move <1> is the first rearrangement (H from C(6) to the carbonyl oxygen O(2) through the drawn six-membered array Y-C(1)-Y'(4)-C(5)-C(6)-H): net effect, the odd electron moves from O(2) to C(6). Moves <2,3> are the ensuing cleavage of the marked C(5)-Y'(4) bond with formation of the C(5)=C(6) pi bond. Move <4> is a bookkeeping composite for the second rearrangement: the second electron of the cleaved C-O bond and the electron of the second migrating hydrogen pair up in the new Y'-H bond, leaving the odd electron on C(7); since neither the C(7)-H nor the O(4)-H bond exists in the mapped SMILES, this shows up as one fishhook from the cleaved bond to C(7). INSTANTIATION: Y = Y' = O, R' = CH3, alkyl = n-butyl (R = CH3), i.e. n-butyl acetate, the textbook r2H case: the ion is the protonated acid CH3C(OH)2+ (m/z 61) and the neutral is the resonance-stabilized C4H7. radical. The page writes the neutral generically as .CnH2n-1, so the chain length is deliberately unspecified in the figure. NO PRINTED NUMBERS on p.191: detected=false, status 'inferred', no relative_intensity; m/z 61.0284 is computed for this instantiation."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.0832, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_protonated_acid", "species_id": "protonated_acid_ion", "step_id": "step_double_hydrogen_rearrangement", "observed_mz": 61.0284, "hydrogen_shift": 2, "isotope_offset": 0, "status": "inferred", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
